US08114872B2
1-(6-Chloropyridin-3-yl)ethanone oxime
Combine 1-(6-chloropyridin-3-yl)ethanone (3.4 g, 22.8 mmol), hydroxylamine (50%) in water (5.77 g, 87.4 mmol) and 0.75 mL of acetic acid in 15 mL of dioxane in a pressure vessel. Seal the vessel and heat the mixture in an oil bath for 3 h at 150° C. Cool the mixture to RT. Dilute with chloroform/IPA (3/1), wash with water, and aqueous saturated sodium chloride. Separate the layers and dry the organic layer over sodium sulfate. Concentrate in vacuo to afford the title compound (3.52 g, 94%). MS (ES) m/z 171 [M+1]+.

reactant | 1-(6-chloropyridin-3-yl)ethanone | 22.8 mmol, 3.4 g | ClC1=CC=C(C=N1)C(C)=O | C7H6ClNO
reactant | hydroxylamine | NO | H3NO
reactant | water | 87.4 mmol, 5.77 g | O | H2O
solvent | acetic acid | 0.75 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
product | 1-(6-Chloropyridin-3-yl)ethanone oxime | 3.52 g, 94% | ClC1=CC=C(C=N1)C(C)=NO | C7H7ClN2O
